US07626022B2
Condensation of 2-acetamido-2-(3-bromo-2-oxopropyl) malonic acid diethyl ester with 1,2-phenylendiamine yielding 2-acetamido-2-(2-quinoxalinylmethyl) malonic acid diethyl ester 151 g (1.39 mol) of 1.2-phenylenediamine were suspended under stirring in 4 l of ethanol in a 20 l round flask. A solution of 516 g (1.45 mol) 2-acetamido-2-(3-bromo-2-oxopropyl)-malonic acid diethyl ester in 7 l ethanol was slowly added by dropping over 48 hours. At the same time, a solution of 180 ml (1.3 mol) triethylamine in 1 l ethanol was added by dropping from a separate tap funnel so that the pH value of the reaction solution did not fall below pH 4. The reaction batch was kept agitated for 3 days after completing the addition of α-bromomethyl ketone. The yellowish brown solution was then liberated from the solvent in a vacuum. The residue was immediately taken up under slight heating in 2.5 l ethyl acetate and allowed to cool down. The triethyl ammonium hydrobromide precipitate that developed after some time was sucked off and washed with ethyl acetate. The filtrate was heated with 25 g of activated carbon to about 50° C. and stirred for 15 minutes, then the solution was filtered off using a frit filled with silica gel and washed. The filtrate was reduced by evaporation to about 900 ml in which process a portion of the product precipitated as yellow crystal needles. 250 ml hexane were added to the batch and allowed to stand for some hours at 4° C. The precipitated product was sucked off and recrystallized from an ethyl acetate-hexane mixture. The parent lye was purified by chromatography. The overall yield of 2-acetamido-2-(2-quinoxalinylmethyl)-malonic acid diethyl ester was 70% of the theoretical yield.

reactant | 2-acetamido-2-(3-bromo-2-oxopropyl) malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(CC(CBr)=O)NC(C)=O)=O | C12H18BrNO6
reactant | 1,2-phenylendiamine | C1(=C(C=CC=C1)N)N | C6H8N2
product | 2-acetamido-2-(2-quinoxalinylmethyl) malonic acid diethyl ester | 1.39 mol, 151 g | C(C)OC(C(C(=O)OCC)(CC1=NC2=CC=CC=C2N=C1)NC(C)=O)=O | C18H21N3O5
